Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
medically refractory UC previously s/p TAC, end ileostomy
 
Major Surgical or Invasive Procedure:
ileostomy takedown

 
History of Present Illness:
Mr. ___ is a ___ year old Male with medically refractory UC
previously s/p TAC, end ileostomy, s/p POD 7 from ___ with
diverting ileostomy. He called this evening at around 2:20am
stating that he has been vomiting uncontrollably and unable to
keep anything down. Based on our advise he presented  to the 
emergency department at ___ for further evaluation on  
___. He under went IPAA and ileostomy takedown on  ___
 
Past Medical History:
- Spinal fusion surgery (___) for kyphoscoliosis
- Mood disorder NOS
- Sinus surgery (___),
- Migraines
 
Social History:
___
Family History:
Sister has ulcerative colitis.
 
Physical Exam:
 VS: temp: 98.0   BP: 118 / 78   HR: 85   RR:18  O2:97ra  
 GEN: WD, WN in NAD  
 HEENT: NCAT, EOMI, anicteric  
 CV: RRR 
 PULM: normal excursion, no respiratory distress  
 ABD: soft, NT, min distention, incision: C/D/I
 EXT: WWP, no CCE 
 NEURO: A&Ox3, no focal neurologic deficits  
 PSYCH: normal judgment/insight, normal memory, normal
 
Pertinent Results:
___ 10:00AM URINE  HOURS-RANDOM
___ 10:00AM URINE  UHOLD-HOLD
___ 10:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 10:00AM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:00AM URINE  MUCOUS-RARE*
___ 03:42AM   LACTATE-1.0
___ 03:35AM   GLUCOSE-105* UREA N-8 CREAT-0.6 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-98 TOTAL CO2-25 ANION GAP-16
___ 03:35AM   ALT(SGPT)-55* AST(SGOT)-32 ALK PHOS-52 TOT 
BILI-0.4
___ 03:35AM   LIPASE-24
___ 03:35AM   ALBUMIN-4.5
___ 03:35AM   WBC-10.3* RBC-5.15 HGB-14.7 HCT-44.3 MCV-86 
MCH-28.5 MCHC-33.2 RDW-11.9 RDWSD-37.6
___ 03:35AM   NEUTS-80.3* LYMPHS-10.0* MONOS-6.2 EOS-2.6 
BASOS-0.2 IM ___ AbsNeut-8.31* AbsLymp-1.03* AbsMono-0.64 
AbsEos-0.27 AbsBaso-0.02
___ 03:35AM   PLT COUNT-339
___ 03:35AM   ___ PTT-28.6 ___
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with h/o UC refractory to medical 

management, he was admitted on ___ to undergo a 
laparoscopic proctectomy with ileal pouch anal anastomosis and 
diverting loop ileostomy and was discharged home on ___.  He 
called evening of ___ around 2:20am stating that he has been 
vomiting uncontrollably and unable to
keep anything down. Based on our advise he presented  to the 
emergency department at ___ for further evaluation on  
___. He underwent ileostomy takedown on  ___. He 
tolerated the procedure well without complications (Please see 
operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management.  
 Neuro: Pain was well controlled.
 CV: Vital signs were routinely monitored during the patient's 
length of stay.  
 Pulm: The patient was encouraged to ambulate, sit and get out 
of bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.  
 GI: The patient was advanced  and tolerated a regular diet 
right after surgery .  
 GU: Patient didn't have a Foley catheter. Urine output was 
monitored as indicated. At time of discharge, the patient was 
voiding without difficulty.  
 ID: The patient's vital signs were monitored for signs of 
infection and fever. The patient was started on/continued on 
antibiotics as indicated.  
 Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.  
 On ___, the patient was discharged to home/rehab/etc. At 
discharge, he/she was tolerating a regular diet, passing flatus, 
stooling?, voiding, and ambulating independently? He will 
follow-up in the clinic in ___ weeks. This information was 
communicated to the patient directly prior to discharge.  
   
 Post-Surgical Complications During Inpatient Admission:  
 [ ] Post-Operative Ileus resolving w/o NGT  
 [ ] Post-Operative Ileus requiring management with NGT  
 [ ] UTI  
 [ ] Wound Infection  
 [ ] Anastomotic Leak  
 [ ] Staple Line Bleed  
 [ ] Congestive Heart failure  
 [ ] ARF  
 [ ] Acute Urinary retention, failure to void after Foley D/C'd  

 [ ] Acute Urinary Retention requiring discharge with Foley 
Catheter  
 [ ] DVT  
 [ ] Pneumonia  
 [ ] Abscess  
 [x] None  
 Social Issues Causing a Delay in Discharge:  
 [ ] Delay in organization of ___ services  
 [ ] Difficulty finding appropriate rehab hospital disposition.  

 [ ] Lack of insurance coverage for ___ services  
 [ ] Lack of insurance coverage for prescribed medications.  
 [ ] Family not agreeable to discharge plan.  
 [ ] Patient knowledge deficit related to ileostomy delaying 
dispo  
 [x] No social factors contributing in delay of discharge. 

 
Medications on Admission:
Medications at Home:
1.  Acetaminophen 1000 mg PO TID  
2.  Enoxaparin Sodium 40 mg SC DAILY Duration: 30 Days 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
4.  ARIPiprazole 2 mg PO DAILY  
5.  BuPROPion 100 mg PO BID  
6.  LamoTRIgine 150 mg PO BID  
7.  Loperamide OTC 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*10 Tablet Refills:*0 
3.  ARIPiprazole 2 mg PO DAILY  
4.  BuPROPion 100 mg PO BID  
5.  Enoxaparin Sodium 40 mg SC DAILY  
6.  LamoTRIgine 150 mg PO BID  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
refractory UC previously s/p TAC, end ileostomy, now s/p IPAA 
and ileostomy takedown

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after an ileostomy takedown. 
You have recovered from this procedure well and you are now 
ready to return home. You have tolerated a regular diet, passing 
 
 gas and your pain is controlled with pain medications by mouth. 
You may return home to finish your recovery.  
 Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but your should not have prolonged constipation. Some loose 
stool and passing of small amounts of dark, old appearing blood 
are expected however, if you notice that you are passing bright 
red blood with bowel your please seek medical attention. If you 
are passing loose stool without improvement please call the 
office or go to the emergency room if the symptoms are severe. 
If you are taking narcotic pain medications there is a risk that 
you will have some constipation. Please take an over the counter 
stool softener such as Colace, and if the symptoms does not 
improve call the office. It is also not uncommon after an 
ileostomy takedown to have frequent loose stools until you are 
taking more regular food however this should improve.  
 The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence however this should improve. If you do not show 
improvement in these symptoms within ___ days please call the 
office for advice. Occasionally, patients will need to take a 
medication to slow their bowel movements as their bodies adjust 
to the new normal without an ileostomy, you should consult with 
our office for advice. If you have any of the following symptoms 
please call the office for advice or go to the emergency room if 
severe: increasing abdominal distension, increasing abdominal 
pain, nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or constipation.  
 You have a small wound where the old ileostomy once was. This 
should be covered with a dry sterile gauze dressing. The wound 
no longer requires packing with gauze packing strip. Please 
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may 
shower, let the warm water run over the wound line and pat the 
area dry with a towel, do not rub. Please apply a new gauze 
dressing after showering.  
 No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.  
 You will be prescribed a small amount of the pain medication 
________. Please take this medication exactly as prescribed. You 
may take Tylenol as recommended for pain. Please do not take 
more than 3000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.  
 Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.  
 Good luck!  
 ____________________________________________________________  
 SMALL BOWEL OBSTRUCTION (Conservatively Treated)  
 You were admitted to the hospital for a small bowel 
obstruction. You were given bowel rest and intravenous fluids 
and a nasogastric tube was placed in your stomach to decompress 
your bowels. Your obstruction has subsequently resolved after 
conservative management. You have tolerated a regular diet, are 
passing gas and your pain is controlled with pain medications by 
mouth. You may return home to finish your recovery.  
 If you have any of the following symptoms please call the 
office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or extended constipation.  
 Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.  

 
Followup Instructions:
___